US08609647B2
(5) Optically-Active Compound of 3-methylazetidine-1,2-dicarboxylic acid di-tert-butyl ester
To a solution of an optically-active compound of 1-benzyl-3-methylazetidine-2-carboxylic acid tert-butyl ester (43.5 g) and di-tert-butyl dicarbonate (38.2 g) in tetrahydrofuran/methanol (130 ml/130 ml) was added 20% palladium hydroxide carbon (3.5 g), and the mixture was hydrogenated under 4 atmospheres for 2 hours. The mixture was filtered through Celite, and the filtrate was concentrated under reduced pressure to give the titled compound (48.0 g).

reactant | 1-benzyl-3-methylazetidine-2-carboxylic acid tert-butyl ester | 43.5 g | C(C)(C)(C)OC(=O)C1N(CC1C)CC1=CC=CC=C1 | C16H23NO2
reactant | di-tert-butyl dicarbonate | 38.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran methanol | 130 ml | O1CCCC1.CO
catalyst | palladium hydroxide carbon | 3.5 g | [C+4].[OH-].[Pd+2].[OH-].[OH-].[OH-].[OH-].[OH-]
product | 3-methylazetidine-1,2-dicarboxylic acid di-tert-butyl ester | 48.0 g | C(C)(C)(C)OC(=O)N1C(C(C1)C)C(=O)OC(C)(C)C | C14H25NO4
